US05708008
5-(3-methylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 13 mg (0.056 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 9.2 mg (0.059 mMol) 3-methylbenzoyl chloride, 17.1 mg (88%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.056 mMol, 13 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3-methylbenzoyl chloride | 0.059 mMol, 9.2 mg | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
product | 5-(3-methylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 17.1 mg, 88% | CC=1C=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC1 | C22H25N3O
